US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide (Compound CLXII)
In a similar fashion to Compound LXXXVII, 4-Chloro-2-morpholin-4-yl-thiazole-5-carbaldehyde (75.00 mg, 0.3223 mmol), (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide (93.35 mg, 0.2901 mmol) and Ammonium acetate (44.72 mg, 0.5802 mmol) were reacted to produce 24.34 mg (16%) of the title compound. (300 MHz, DMSO-d6) 12.80 (s, 1H), 7.96 (s, 1H), 6.42-6.32 (m, 2H), 5.11 (t, J=17 Hz, 8.5 Hz, 1H), 3.73 (m, 4H), 3.48 (m, 4H), 3.01 (d, J=9 Hz, 1H), 2.94 (s, 3H), 2.86 (m, 4H), 2.82 (s, 1H), 2.11 (d, J=8 Hz, 1H), 1.42 (d, J=8 Hz, 1H). MS=533 (M+H), HPLC: 2.73 min. (G Method)

reactant | 4-Chloro-2-morpholin-4-yl-thiazole-5-carbaldehyde | 0.3223 mmol, 75.00 mg | ClC=1N=C(SC1C=O)N1CCOCC1 | C8H9ClN2O2S
reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide | 0.2901 mmol, 93.35 mg | CN(C(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C(C(=NC=C1Cl)N)N)C2)C | C15H20ClN5O
reactant | Ammonium acetate | 0.5802 mmol, 44.72 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide | 24.34 mg, 16% | CN(C(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C3C(=NC=C1Cl)NC(=N3)C3=C(N=C(S3)N3CCOCC3)Cl)C2)C | C23H25Cl2N7O2S
